US08133995B2
Step 5: Preparation of ethyl 4-amino-5-{4-[(tert-butoxycarbonyl)amino]-3-fluorophenyl}pyrrolo[2,1-f][1,2,4]triazine-6-carboxylate
A mixture of ethyl 1-amino-4-{4-[(tert-butoxycarbonyl)amino]-3-fluorophenyl}-5-cyano-1H-pyrrole-3-carboxylate (18.06 g, 46.5 mmol), formamidine acetate (48.41 g, 464.9 mmol) and finely ground potassium phosphate (19.74 g, 93.0 mmol) in ethanol (350 mL) was heated at 80° C. overnight. After 16 h, the reaction mixture was cooled to rt and diluted with 1.8 L water. The resulting precipitate was filtered thru a glass frit and washed with water. Drying in a vacuum oven provided the title compound as a gray solid (15.6 g, 80.8%) 1H-NMR (DMSO-d6) 9.11 (s, 1H), 8.13 (s, 1H), 7.93 (s, 1H), 7.72 (t, J=8 Hz, 1H), 7.26 (dd, J=12, 2 Hz, 1H), 7.12 (dd, J=8, 2 Hz, 1H), 4.07 (q, J=7 Hz, 2H), 1.47 (s, 9H), 1.09 (t, J=7 Hz, 3H); MS [M+H]+ 415.8=; LCMS RT=3.05.

reactant | ethyl 1-amino-4-{4-[(tert-butoxycarbonyl)amino]-3-fluorophenyl}-5-cyano-1H-pyrrole-3-carboxylate | 46.5 mmol, 18.06 g | NN1C=C(C(=C1C#N)C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)F)C(=O)OCC | C19H21FN4O4
reactant | formamidine acetate | 464.9 mmol, 48.41 g | C(C)(=O)O.C(=N)N
reactant | potassium phosphate | 93.0 mmol, 19.74 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethanol | 350 mL | C(C)O | C2H6O
solvent | water | 1.8 L | O | H2O
product | ethyl 4-amino-5-{4-[(tert-butoxycarbonyl)amino]-3-fluorophenyl}pyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 15.6 g, 80.8% | NC1=NC=NN2C1=C(C(=C2)C(=O)OCC)C2=CC(=C(C=C2)NC(=O)OC(C)(C)C)F | C20H22FN5O4
